US05124489
The procedure of Example 2 was repeated with a solution of 3.00 g (15.3 mmol) 4-hydroxyphenylglyoxal dimethyl acetal in 10 g methanol containing 0.16 g (4.4 mmol) hydrogen chloride and 0.15 g moist 10% Pd/C catalyst being reacted with hydrogen gas pressurized at 300 psig at 50° C. 300 rpm. A 59% yield of 4-(2'-methoxyethyl)phenol was obtained.

reactant | 4-hydroxyphenylglyoxal dimethyl acetal | 15.3 mmol, 3.00 g | COC(C=O)(C1=CC=C(C=C1)O)OC | C10H12O4
reactant | methanol | 4.4 mmol, 10 g | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-(2'-methoxyethyl)phenol | 59% yield | COCCC1=CC=C(C=C1)O | C9H12O2
